US07012089B2
{[2-(2-chloro-6-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid
{[2-(2-chloro-6-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid ethyl ester (11.0 g, 0.0365 mole) dissolved in concentrated hydrobromic acid (48 wt. % in water, 200 mL) was allowed to stir at 70° C. overnight and then reduced to a small volume in vacuo. The residue oil was taken up in acetonitrile and the solution was evaporated in vacuo. This procedure was repeated until the water was removed and a crystalline residue remained. This material was used in the next step without further purification.

reactant | {[2-(2-chloro-6-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid ethyl ester | 0.0365 mole, 11.0 g | C(C)OC(CN(C)CCC1=C(C=CC=C1[N+](=O)[O-])Cl)=O | C13H17ClN2O4
solvent | hydrobromic acid | 200 mL | Br | BrH
solvent | acetonitrile | C(C)#N | C2H3N
product | {[2-(2-chloro-6-nitro-phenyl)-ethyl]-methyl-amino}-acetic acid | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCN(C)CC(=O)O | C11H13ClN2O4
